US07893264B2
To a solution of 5-methyl-1H-pyrazole (5 g, 61.05 mmol) in CH3CN (50 mL) at 0° C. was added di-tert-butyl dicarbonate (16 g, 73.26 mmol) and DMAP (740 mg, 6.10 mmol). The reaction mixture was warmed to r.t. and stirred for 2 h. The reaction mixture was diluted with EtOAc (30 mL) and washed with 1 N HCl (2×30 mL). The organic layer was washed with saturated NaHCO3 (30 mL) and brine (30 mL), dried with Na2SO4, and concentrated to give 8.7 g of 5-methyl-pyrazole-1-carboxylic acid tert-butyl ester as crude product.

reactant | 5-methyl-1H-pyrazole | 61.05 mmol, 5 g | CC1=CC=NN1 | C4H6N2
reactant | di-tert-butyl dicarbonate | 73.26 mmol, 16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 50 mL | CC#N | C2H3N
catalyst | DMAP | 6.10 mmol, 740 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 5-methyl-pyrazole-1-carboxylic acid tert-butyl ester | 8.7 g | C(C)(C)(C)OC(=O)N1N=CC=C1C | C9H14N2O2
